US05397798
N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[(1H-pyrrol-2-yl)-carbonyl]amino]benzamide monohydrochloride
The titled compound was prepared substantially in accordance with the method detailed in Example 11 using 1.50 g (0.00651 mol) of 2-amino-N-[2-(1H-imidazol-2-yl)-ethyl]benzamide, prepared as in Example 6A, and 1.36 g (0.0105 mol) of pyrrole-2-carboxylic acid chloride with the exception that after reducing the initial reaction solution to dryness the resultant residue was dissolved in methanol. The resulting solution was refluxed for approximately an hour and then reduced to dryness under reduced pressure to provide a solid. This solid was dissolved in an ethyl acetate/aqueous sodium bicarbonate mixture containing a small amount of ethanol. The resultant layers were separated and the organic layer was washed with a saturated sodium chloride solution, with anhydrous sodium sulfate and then reduced to dryness under reduced pressure. The resultant solid was dissolved in methanol containing diethyl ether and hydrochloric acid. After removing the methanol under reduced pressure, the final product was purified by crystallization from an ethanol/ethyl acetate solution, followed by recrystallization from a methanol/ethyl acetate solution, to provide 1.66 g of the desired titled compound (m.p. 237°-239° C.).

reactant | 2-amino-N-[2-(1H-imidazol-2-yl)-ethyl]benzamide | 0.00651 mol, 1.50 g | NC1=C(C(=O)NCCC=2NC=CN2)C=CC=C1 | C12H14N4O
reactant | pyrrole-2-carboxylic acid chloride | 0.0105 mol, 1.36 g | N1C(=CC=C1)C(=O)Cl | C5H4ClNO
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[(1H-pyrrol-2-yl)-carbonyl]amino]benzamide monohydrochloride | 1.66 g | Cl.N1C(=NC=C1)CCNC(C1=C(C=CC=C1)NC(=O)C=1NC=CC1)=O | InChI=1S/C17H17N5O2.ClH/c23-16(21-9-7-15-19-10-11-20-15)12-4-1-2-5-13(12)22-17(24)14-6-3-8-18-14;/h1-6,8,10-11,18H,7,9H2,(H,19,20)(H,21,23)(H,22,24);1H
